US04659710
Suspended in 32 ml of pyridine was 4.84 g of 6-amino-8-bromo-1,7-naphthyridine, followed by an addition of 66 ml of acetic anhydride. The resultant mixture was stirred at room temperature for 4 hours. After the reaction, the reaction mixture was poured in 500 ml of ice water and crystals, which precipitated out, were collected by filtration and then washed thoroughly with water. They were recrystallized from methanol to obtain 5.37 g of 6-acetamido-8-bromo-1,7-naphthyridine as colorless needle-like crystals (yield: 93.4%).

reactant | 6-amino-8-bromo-1,7-naphthyridine | 4.84 g | NC=1C=C2C=CC=NC2=C(N1)Br | C8H6BrN3
reactant | acetic anhydride | 66 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 32 ml | N1=CC=CC=C1 | C5H5N
product | 6-acetamido-8-bromo-1,7-naphthyridine | 5.37 g | C(C)(=O)NC=1C=C2C=CC=NC2=C(N1)Br | C10H8BrN3O
